US08258362B2
The copper catalyzed coupling reaction of a Grignard reagent with an organic halide, which is commonly referred to as a halide displacement reaction, was first reported in 1971 by Kochi and Tamura (J. Am. Chem. Soc. 1971, 93, 1487, Synthesis 1971, 303, J. Organomet. Chem. 1972, 42, 205). In the Synthesis paper the authors reported the coupling reaction of n-butylmagnesium bromide with n-hexyl bromide in the presence of dilithiumtetrachlorocuprate (Li2CuCl4). Since that report the use of Li2CuCl4 in coupling reactions has been quite extensive and is prominent in the synthesis of pheromones as well as in the synthesis of α,ω-olefins. One of the more interesting uses of this copper catalyzed coupling reaction may be found in U.S. Pat. No. 4,912,253 where sorbyl acetate was coupled with the Grignard prepared from the magnesium salt of chlorohexanol to form the codling moth (Laspeyresia pomonella) sex pheromone 8,10-dodecadien-1-ol on a metric ton scale. α,ω-olefins have been formed by coupling 4-pentenylmagnesium bromide with the bis-tosylate of 1,5-pentanediol to form 1,14-pentadecadiene in 81% yield (Tetrahedron 1991, 47, 6287-6292). 1,9-Decadiene has been prepared by the Li2CuCl4 catalyzed coupling reaction of 1,4-dibromobutane with allylmagnesium bromide at 25° C. in 38% yield (Synthetic Communications 1994, 24, 459-463).

reactant | n-butylmagnesium bromide | C(CCC)[Mg]Br
reactant | n-hexyl bromide | C(CCCCC)Br | C6H13Br
reactant | sorbyl acetate | C(C)(=O)OC\C=C\C=C\C | C8H12O2
reactant | chlorohexanol | ClC(CCCCC)O | C6H13ClO
catalyst | copper | [Cu] | Cu
catalyst | dilithiumtetrachlorocuprate | [Li+].[Li+].[Cl-].[Cl-].[Cl-].[Cl-].[Cu+2]
product | 8,10-dodecadien-1-ol | C(CCCCCCC=CC=CC)O | C12H22O
